US07649011B2
Experimental condition analogous to Example 22 were used with 2-(R)-[(2-methyl-3-phenyl-allylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (prepared according to the scheme 13) were used with 2-(R)-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester) 0.5 g (1.51 mmol), 3,4,5-trimethoxy benzoic acid 0.38 g (1.8 mmol), triethylamine 0.1 ml, 1-(dimethylaminopropyl)-3-ethylcarbodiimide 0.43 g (2.2 mmol), and 1-hydroxybenzotriazole 0.2 g (1.5 mmol) in 10 ml DCM. The reaction yielded 0.46 g of 2-(R){[2-methyl-3-phenyl-allyl)-3,4,5-trimethoxy-benzoyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. After BOC deprotection analogous to the Example 13, the compound was transformed to the HCl salt, 0.35 g of a white solid was obtained. Yield: 50%

reactant | 2-(R)-[(2-methyl-3-phenyl-allylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNCC(=CC1=CC=CC=C1)C | C20H30N2O2
reactant | 2-(R)-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CC(=O)O | C11H19NO4
reactant | 3,4,5-trimethoxy benzoic acid | 1.8 mmol, 0.38 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide | 2.2 mmol, 0.43 g | CN(C)CCCN=C=NCC | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.5 mmol, 0.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
